Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Penicillins / nitrofurantoin
 
Attending: ___.
 
Chief Complaint:
pelvic organ prolapse, incontinence
 
Major Surgical or Invasive Procedure:
anterior and posterior colporrhaphy, suburethral sling

 
History of Present Illness:
Ms. ___ is a ___ yo G4P4 who The patient complains of a bulge 
outside the vaginal opening for ___ year. She has some difficulty 
emptying her bladder with straining and an intermittent urine 
stream. She also complains of occasional leakage with coughing 
and sneezing. She does not have urge incontinence. Daytime 
urinary frequency is every 3 hours with nocturia x1. She has no 
history of UTI. She has chronic constipation. She has a severe 
chronic cough related to smoking. She has been afraid to have 
sexual relations for the last ___ year, because of the prolapse. 
 
Past Medical History:
OB HISTORY: Gravida 4, para 4, vaginal birth 4. 

PMHx: 
- chronic back pain
- fibromyalgia
- COPD
- hypercholesterolemia
- obesity

SHx: ___
Family History:
Non-contributory
 
Physical Exam:
Discharge physical exam:
AVSS
Gen: NAD
CV: RRR
P: CTAB
Abd: soft, nondistended, nontender, bilateral mons incisions 
c/d/I
GU: pad with minimal spotting
Ext: WWP
 
Pertinent Results:
N/A
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing an anterior and posterior colporrhaphy and 
suburethral sling, as well as cystoscopy for pelvic organ 
prolapse. Please see the operative report for full details.

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV dilaudid and toradol. 
On post-operative day 1, her urine output was adequate and her 
Foley was removed with a voiding trial, the results of which are 
as follows: Instilled 300 mL, voided 150 mL with a subsequent 
150ml within 10 minutes. She continued to void without issue. 
Her diet was advanced without difficulty and she was 
transitioned to PO oxycodone, Tylenol, and ibuprofen(pain meds).

By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
Oxycodone 5mg prn
Flovent HFA
Ventolin HFA
Ibuprofen
Gabapentin
Nicotine patch
Lamotrigine
Buspar
Diphenhydramine
 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN pain 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*40 Tablet Refills:*0
2. Albuterol Inhaler ___ PUFF IH Q6H:PRN SOB wheezing 
3. ARIPiprazole 30 mg PO DAILY 
4. BusPIRone 15 mg PO TID 
5. Fluticasone Propionate 110mcg 2 PUFF IH BID 
6. Gabapentin 1200 mg PO TID 
7. Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*40 Tablet Refills:*0
8. LamoTRIgine 500 mg PO QHS 
9. Nicotine Patch 21 mg TD DAILY 
RX *nicotine 21 mg/24 hour Apply one patch DAILY Disp #*7 Patch 
Refills:*0
10. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
prolapse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 6 
weeks.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___